US07553969B1
(4) Synthesis of 2-(3-t-butyl-4-hydroxyphenyl)-1-methanesulfonylmethylethylamine
A mixture of 2-(4-benzyloxy-3-t-butylphenyl)-1-methanesulfonylmethylethylcarbamic acid benzyl ester (1.0 g, 1.96 mmol) and 20% palladium hydroxide/carbon (0.08 g) in methanol (16 ml) was stirred at room temperature in a hydrogen atmosphere overnight. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol:aqueous ammonia=100:10:1), giving the titled compound (0.56 g, 99%).

reactant | 2-(4-benzyloxy-3-t-butylphenyl)-1-methanesulfonylmethylethylcarbamic acid benzyl ester | 1.96 mmol, 1.0 g | C(C1=CC=CC=C1)OC(NC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)CS(=O)(=O)C)=O | C29H35NO5S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 16 ml | CO | CH4O
catalyst | palladium hydroxide/carbon | 0.08 g | [OH-].[OH-].[Pd+2]
product | 2-(3-t-butyl-4-hydroxyphenyl)-1-methanesulfonylmethylethylamine | 0.56 g, 99% | C(C)(C)(C)C=1C=C(C=CC1O)CC(CS(=O)(=O)C)N | C14H23NO3S
